US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-(1-hydroxyindan-5-yl)isoquinoline
1-(4-Ethylpiperazin-1-yl)-3-(1-indanon-5-yl)isoquinoline (0.20 g) obtained in the previous Example was dissolved in methanol (20 ml), followed by the addition of sodium borohydride (0.10 g) at room temperature, and the mixture was reacted for 15 min. The reaction solution was concentrated, and the resulting residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give the title compound (0.12 g) as a pale yellow oil.

reactant | 1-(4-Ethylpiperazin-1-yl)-3-(1-indanon-5-yl)isoquinoline | 0.20 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1C=C2CCC(C2=CC1)=O | C24H25N3O
reactant | sodium borohydride | 0.10 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(4-ethylpiperazin-1-yl)-3-(1-hydroxyindan-5-yl)isoquinoline | 0.12 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1C=C2CCC(C2=CC1)O | C24H27N3O
